US05817698
(±) cis 1-Ethoxycarbonylamino-2-(4-benzylphenoxymethyl)cyclopentane
To a solution of (±) cis 1-amino-2-(4-benzylphenoxymethyl)cyclopentane (0.9 g, 3.20 mmol) in dry diethyl ether (100 ml) containing triethylamine (0.89 ml, 6.4 mmol) was added ethyl chloroformate (0.40 ml, 4.16 mmol) under argon. After stirring at room temperature for 2.5 h the reaction was quenched with ice water and the pH of the aqueous layer was adjusted to 7 by addition of dilute hydrochloric acid. The organic layer was separated and the aqueous phase was extracted with diethyl ether (2×50 ml). The combined organic layers were washed with brine, dried over sodium sulfate and concentrated in vacuo to give a pale yellow oil (1.16 g) which was used in the next stage without further purification.

reactant | (±) cis 1-amino-2-(4-benzylphenoxymethyl)cyclopentane | 3.20 mmol, 0.9 g | N[C@H]1[C@H](CCC1)COC1=CC=C(C=C1)CC1=CC=CC=C1 | C19H23NO
reactant | triethylamine | 6.4 mmol, 0.89 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 4.16 mmol, 0.40 ml | ClC(=O)OCC | C3H5ClO2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | (±) cis 1-Ethoxycarbonylamino-2-(4-benzylphenoxymethyl)cyclopentane | 1.16 g | C(C)OC(=O)N[C@H]1[C@H](CCC1)COC1=CC=C(C=C1)CC1=CC=CC=C1 | C22H27NO3
